US06979690B2
Step 1. Methyl 6-amino-5-iodo-2-(methyloxy)-3-pyridinecarboxylate
A mixture of methyl 6-amino-2-(methyloxy)-3-pyridinecarboxylate (2.1 g, 11.8 mmol) and iodine (15 g, 59 mmol) in N,N-dimethylformamide (50 ml) was stirred overnight at room temperature. The mixture was poured into water (200 ml) and extracted with ethyl acetate (50 ml×2). The combined organic layer was washed with saturated sodium bicarbonate, 20% aqueous thiosulphate and brine, dried over magnesium sulfate, and concentrated in vacuo gave a brown solid. The residue was suspended in diethyl ether and collected by filtration to afford 2.9 g (79%) of the title compound as a pale brown solid.

reactant | methyl 6-amino-2-(methyloxy)-3-pyridinecarboxylate | 11.8 mmol, 2.1 g | NC1=CC=C(C(=N1)OC)C(=O)OC | C8H10N2O3
reactant | iodine | 59 mmol, 15 g | II | I2
reactant | water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | Methyl 6-amino-5-iodo-2-(methyloxy)-3-pyridinecarboxylate | 2.9 g, 79% | NC1=C(C=C(C(=N1)OC)C(=O)OC)I | C8H9IN2O3
